US04130715
In a manner similar to that of Example 1 (C), 5.28 g (33.6 mmol) of 1,4,8-triazacycloundecane and 4.00 g of dimethylformamide dimethyl acetal were reacted to give 4.59 g of 1,4,8-triazatricyclo[6.3.1.04,12 ]dodecane as a clear, colorless liquid, bp 80°-82° (three fractions) (1.2 mm), nD24 = 1.5182. A fraction boiling at 82° was analyzed.

reactant | 1,4,8-triazacycloundecane | 33.6 mmol, 5.28 g | N1CCNCCCNCCC1 | C8H19N3
reactant | dimethylformamide dimethyl acetal | 4.00 g | COC(N(C)C)OC | C5H13NO2
product | 1,4,8-triazatricyclo[6.3.1.04,12 ]dodecane | 4.59 g | N12CCN3CCCN(CCC1)C23 | C9H17N3
